US06211234B1
A stirred mixture of 5-methoxy-2-methylbenzaldehyde (24.9 g) and pyridine hydrochloride (100 g) is heated at 170° C. for 7 hours. Water (250 mL) is added cautiously to the reaction mixture at 140° C. and the very dark mixture is extracted twice with chloroform (250 mL), filtration through hyflo removes a small amount of insoluble black solid and aids separation. The organic phase is washed with 1 N hydrochloric acid (250 mL), with water (250 mL), with brine (250 mL), dried over magnesium sulphate and evaporated. The residue is washed with pentane to give 5-hydroxy-2-methylbenzaldehyde (10.66 g) as a cream solid, m.p. 116-118° C.

reactant | 5-methoxy-2-methylbenzaldehyde | 24.9 g | COC=1C=CC(=C(C=O)C1)C | C9H10O2
reactant | pyridine hydrochloride | 100 g | Cl.N1=CC=CC=C1
solvent | Water | 250 mL | O | H2O
product | 5-hydroxy-2-methylbenzaldehyde | 10.66 g | OC=1C=CC(=C(C=O)C1)C | C8H8O2
